US07550467B2
A mixture of 6-bromo-chroman-3-ylamine (0.105 g, 0.46 mmol, 1 eq), (2S,5R)-4-(3-chloro-propyl)-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.133 g, 0.46 mmol, 1 eq), K2CO3 (0.127 g, 0.92 mmol, 2 eq), and Kl (0.017 g, 0.10 mmol, 0.2 eq) in DMF (0.5 mL) was heated in a microwave reactor at 150° C. for 25 min. The reaction mixture was partitioned between EtOAc (3 mL) and 10% aqueous NaHCO3 (3 mL). The organic layer was separated and aqueous layer was extracted with EtOAc (2 mL×3). The combined organic layers were dried (Na2SO4) and concentrated in vacuo to give 0.22 g (100%) of (2S,5R)-4-[3-(6-bromo-chroman-3-ylamino)-propyl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a yellow oil. The material was carried on to next step without further purification.

reactant | 6-bromo-chroman-3-ylamine | 0.46 mmol, 0.105 g, 1 eq | BrC=1C=C2CC(COC2=CC1)N | C9H10BrNO
reactant | (2S,5R)-4-(3-chloro-propyl)-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 0.133 g, 1 eq | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)CCCCl)C | C14H27ClN2O2
reactant | K2CO3 | 0.92 mmol, 0.127 g, 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (2S,5R)-4-[3-(6-bromo-chroman-3-ylamino)-propyl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.22 g, 100% | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)CCCNC1COC2=CC=C(C=C2C1)Br)C | C23H36BrN3O3
